US04929634
Preparation of 5-bromo-4-chloro-2-(3,4-dichlorophenyl)pyrrole-3-carbonitrile
In a similiar fashion one can prepare 2-bromo-3-chloro-5-(3,4-dichlorophenyl)-4-nitropyrrole by starting with 2-bromo-5-(3,4-dichlorophenyl)-4-nitropyrrole.

reactant | 2-bromo-3-chloro-5-(3,4-dichlorophenyl)-4-nitropyrrole | BrC=1NC(=C(C1Cl)[N+](=O)[O-])C1=CC(=C(C=C1)Cl)Cl | C10H4BrCl3N2O2
reactant | 2-bromo-5-(3,4-dichlorophenyl)-4-nitropyrrole | BrC=1NC(=C(C1)[N+](=O)[O-])C1=CC(=C(C=C1)Cl)Cl | C10H5BrCl2N2O2
product | 5-bromo-4-chloro-2-(3,4-dichlorophenyl)pyrrole-3-carbonitrile | BrC1=C(C(=C(N1)C1=CC(=C(C=C1)Cl)Cl)C#N)Cl | C11H4BrCl3N2
